* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4940.asc
* Generated by LTspice 24.1.9 for Windows.
RL1 0 OUT- 499
RL2 OUT+ 0 499
G1 0 OUT_DIFF OUT- OUT+ -1m
R1 OUT_DIFF 0 1k
Vocm N003 0 0
VS+ N002 0 2.5
VS- N005 0 -2.5
Vin IN 0 PULSE(-50m 50m 20n 1n 1n 100n)
RG2 N004 0 1k
RF2 OUT+ N004 1k
RG1 N001 IN 1k
RF1 OUT- N001 1k
X§U1 NC_01 NC_02 N001 N004 N002 N005 OUT+ OUT- N003 NC_03 ADA4940
.tran 150n
.lib ADA4940.sub
.backanno
.end
